US04649146
To a solution of ethyl 2-amino-5-(2-pyridyl)-4-thiazolecarboxylate (2.49 g) in ethyleneglycol (10 ml) were added N,N-dimethylethylenediamine (1.76 g) and 36% hydrochloric acid (0.5 ml) and the mixture was stirred at 80° C. for 2 hours. The reaction mixture was poured into water (50 ml), adjusted to pH 8 with aqueous potassium carbonate and extracted with chloroform. The extract was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from acetonitrile to give 2-amino-4-[N-[2-(N,N-dimethylamino)ethyl]carbamoyl]-5-(2-pyridyl)thiazole (2.0 g).

reactant | ethyl 2-amino-5-(2-pyridyl)-4-thiazolecarboxylate | 2.49 g | NC=1SC(=C(N1)C(=O)OCC)C1=NC=CC=C1 | C11H11N3O2S
reactant | N,N-dimethylethylenediamine | 1.76 g | CN(CCN)C | C4H12N2
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyleneglycol | 10 ml | C(CO)O | C2H6O2
solvent | water | 50 ml | O | H2O
product | 2-amino-4-[N-[2-(N,N-dimethylamino)ethyl]carbamoyl]-5-(2-pyridyl)thiazole | 2.0 g | NC=1SC(=C(N1)C(NCCN(C)C)=O)C1=NC=CC=C1 | C13H17N5OS
